US05972975
EXAMPLE 30 2.5-Diamino-4-picoline
To a solution of tin(II) chloride (4.95 g, 26.12 mmol) in concentrated hydrochloric acid (13.0 mL) was added 2-amino-5-nitro-4-picoline (1.0 g, 6.53 mmol) and heated at 90° C. for 24 h. The reaction was cooled to room temperature, made basic with 5N NaOH, extracted with ethyl acetate, dried (Na2SO4), and evaporated to give a solid. The crude material was subjected to silica gel chromatography using 10% methanol/methylene chloride as eluant to give the title compound.

reactant | tin(II) chloride | 26.12 mmol, 4.95 g | [Sn](Cl)Cl
reactant | 2-amino-5-nitro-4-picoline | 6.53 mmol, 1.0 g | NC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H7N3O2
reactant | NaOH | 5N | [OH-].[Na+]
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | hydrochloric acid | 13.0 mL | Cl | ClH
product | 2.5-Diamino-4-picoline | NC1=NC=C(C(=C1)C)N | C6H9N3
